US07220745B2
4-Nitrobenzonitrile and 2,6-dichlorophenyl methyl ketone can be reacted with phenyliodine (III) diacetate and trifluoromethylsulfonic acid by the method of R. S. Varma, et al, J. Heterocyclic Chem., 1998, 35(6), 1533–1534 to give 5-(2,6-dichlorophenyl)-2-(4-nitrophenyl)-1,3-oxazole. The nitrophenyl group can be reduced to the corresponding aniline with tin (II) dichloride or iron powder and ammonium chloride. Reaction of this aniline with 2,2-dichloroacetyl chloride and triethylamine can then give 2,2-dichloro-N-[4-[5-(2,6-dichlorophenyl)-2-(1,3-oxazolyl)]phenyl]acetamide.

reactant | 4-Nitrobenzonitrile | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
reactant | 2,6-dichlorophenyl methyl ketone | CC(=O)C1=C(C=CC=C1Cl)Cl | C8H6Cl2O
reactant | phenyliodine (III) diacetate | C(C)(=O)[O-].C(C)(=O)[O-].C1(=CC=CC=C1)[I+2]
reactant | trifluoromethylsulfonic acid | FC(F)(F)S(=O)(=O)O | CHF3O3S
product | 5-(2,6-dichlorophenyl)-2-(4-nitrophenyl)-1,3-oxazole | ClC1=C(C(=CC=C1)Cl)C1=CN=C(O1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H8Cl2N2O3
